US06251925B1
(R)-3′-[[2-[[2-(3-Chlorophenyl)-2-hydroxyethyl]amino]ethyl]amino]-[1,1′-biphenyl]-3,4-dicarboxylic acid dimethyl ester dihydrochloride as a white solid (743 mg);
Assay Found: C 55.03; H 5.36; N 5.04%; C26H27Cl1N2O5.0.64H2O requires C 55.04; H 5.38; N 4.94%; from (R)-3′-[[2-[[2-(3-chlorophenyl)-2-[[(tert-butyl)dimethylsilyl]oxy]ethyl][(tert-butoxy)carbonyl]amino]ethyl]amino]-[1,1′-biphenyl]-3,4-dicarboxylic acid dimethyl ester (1.1 g) in 4 N hydrochloric acid in dioxane (10 mL).

reactant | (R)-3′-[[2-[[2-(3-chlorophenyl)-2-[[(tert-butyl)dimethylsilyl]oxy]ethyl][(tert-butoxy)carbonyl]amino]ethyl]amino]-[1,1′-biphenyl]-3,4-dicarboxylic acid dimethyl ester | 1.1 g | COC(=O)C=1C=C(C=CC1C(=O)OC)C1=CC(=CC=C1)NCCN(C(=O)OC(C)(C)C)C[C@H](O[Si](C)(C)C(C)(C)C)C1=CC(=CC=C1)Cl | C37H49ClN2O7Si
solvent | hydrochloric acid | 4 N | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (R)-3′-[[2-[[2-(3-Chlorophenyl)-2-hydroxyethyl]amino]ethyl]amino]-[1,1′-biphenyl]-3,4-dicarboxylic acid dimethyl ester dihydrochloride | Cl.Cl.COC(=O)C=1C=C(C=CC1C(=O)OC)C1=CC(=CC=C1)NCCNC[C@H](O)C1=CC(=CC=C1)Cl | InChI=1S/C26H27ClN2O5.2ClH/c1-33-25(31)22-10-9-18(15-23(22)26(32)34-2)17-5-4-8-21(14-17)29-12-11-28-16-24(30)19-6-3-7-20(27)13-19;;/h3-10,13-15,24,28-30H,11-12,16H2,1-2H3;2*1H/t24-;;/m0../s1
